US09216988B2
To a solution of 1-(4-(2,3,4,5-tetrahydrobenzo[f][1,4]oxazepin-8-yl)piperazin-1-yl)ethanone hydrochloride (80 mg, 0.26 mmol) and N,N-diisopropylethylamine (0.17 mL, 0.94 mmol) in dichloromethane (1.5 mL) was added phenylmethanesulfonyl chloride (76 mg, 0.39 mmol) and the reaction was stirred at ambient temperature for 16 hours. The reaction was then concentrated and purified by preparative reverse phase HPLC to yield 61 mg of 1-[4-(4-phenylmethanesulfonyl-2,3,4,5-tetrahydro-benzo[f][1,4]oxazepin-8-yl)-piperazin-1-yl]-ethanone. 1H NMR (400 MHz, DMSO) δ 7.38-7.27 (m, 5H), 7.03 (d, J=8.3 Hz, 1H), 6.63-6.58 (m, 1H), 6.58-6.55 (m, 1H), 4.36 (s, 2H), 4.22 (s, 2H), 3.96-3.90 (m, 2H), 3.59-3.51 (m, 4H), 3.51-3.46 (m, 2H), 3.18-3.12 (m, 2H), 3.12-3.04 (m, 2H), 2.02 (s, 3H); LCMS (m/z) ES+ 430.1 [M+1]+.

reactant | 1-(4-(2,3,4,5-tetrahydrobenzo[f][1,4]oxazepin-8-yl)piperazin-1-yl)ethanone hydrochloride | 0.26 mmol, 80 mg | Cl.O1CCNCC2=C1C=C(C=C2)N2CCN(CC2)C(C)=O
reactant | N,N-diisopropylethylamine | 0.94 mmol, 0.17 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phenylmethanesulfonyl chloride | 0.39 mmol, 76 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 1-[4-(4-phenylmethanesulfonyl-2,3,4,5-tetrahydro-benzo[f][1,4]oxazepin-8-yl)-piperazin-1-yl]-ethanone | 61 mg | C1(=CC=CC=C1)CS(=O)(=O)N1CCOC2=C(C1)C=CC(=C2)N2CCN(CC2)C(C)=O | C22H27N3O4S
